### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): corollaries of Zariski's main theorem

### PR DESCRIPTION
**Pull request by erdOne**
We prove that if `f : X ⟶ Y` is proper and `f⁻¹(y)` is finite, then `f` is a finite morphism at some neighborhood of `y`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean [hunk 1]
```diff
@@ -193,21 +204,21 @@ instance (f : X ⟶ Y) [LocallyQuasiFinite f] [QuasiCompact f] (x : Y) :
     IsFinite (f.fiberToSpecResidueField x) :=
   .of_locallyQuasiFinite (pullback.snd _ _)
 
-nonrec lemma LocallyQuasiFinite.of_isFinite_fiberToSpecResidueField
-    (hf : ∀ x, IsFinite (f.fiberToSpecResidueField x)) : LocallyQuasiFinite f := by
+nonrec lemma LocallyQuasiFinite.of_fiberToSpecResidueField
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean:207]: Could you add the `deprecated` alias?

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean [hunk 2]
```diff
@@ -335,4 +355,72 @@ lemma Scheme.Hom.quasiFiniteAt [LocallyQuasiFinite f] (x : X) :
     (Algebra.QuasiFinite R (Localization.AtPrime J)))
   ext; simp; rfl
 
+lemma Scheme.Hom.quasiFiniteAt_comp_iff_of_isOpenImmersion
+    {Z : Scheme} {f : X ⟶ Y} {g : Y ⟶ Z} {x : X}
+      [IsOpenImmersion f] :
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]:
```suggestion
    {Z : Scheme} {f : X ⟶ Y} {g : Y ⟶ Z} {x : X} [IsOpenImmersion f] :
```

File: Mathlib/RingTheory/QuasiFinite/Weakly.lean [hunk 3]
```diff
@@ -221,4 +221,46 @@ lemma of_restrictScalars [Algebra S T] [IsScalarTower R S T]
   refine .trans ?_ (Ideal.comap_map_of_surjective _ Ideal.Quotient.mk_surjective _).symm
   simp [← RingHom.ker_eq_comap_bot, Ideal.map_comap_le]
 
+/-- Use `Algebra.QuasiFinite.of_quasiFiniteAt_residueField` instead
+for `Algebra.QuasiFiniteAt R p`. -/
```
Comment (joelriou) [inline Mathlib/RingTheory/QuasiFinite/Weakly.lean]:
```suggestion
for `Algebra.QuasiFiniteAt R q`. -/
```

**Comment by joelriou** [comment]
Thanks!

bors d+
